Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
amlodipine / Amoxicillin / Benadryl / Erythromycin Base / 
potassium / lisinopril / metoprolol / Plavix / felodipine
 
Attending: ___
 
Chief Complaint:
hip pain s/p MVC
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ male with h/o HTN, HLD, asthma/COPD, atrial 
fibrillation (not on anticoagulation) and CAD presented to the 
ED s/p MVA. He was reportedly the unrestrained driver of a 
vehicle traveling approximately 10mph when it was struck on the 
driver's side by a vehicle travelling approximately 35mph. 
Airbags were deployed and the windshield was shattered. The 
patient denied
LOC. He did require assistance with extraction due to 
significant right hip pain. He was taken to ___ where he 
started complaining of pain in the left hip and knee. He had CT 
and XR imaging that identified a ruptured left renal cyst as 
well as a greater trochanter fracture of the left hip, and was 
transferred to ___ for further evaluation. En route with EMS 
he became
mildly hypotensive but responded to IV fluids. Upon arrival he 
continues to complain of both in both of his hips, left worse 
than right. He denies any numbness or tingling in his arms or 
legs. He denies any current chest pain or difficulty breathing.

 
Past Medical History:
PMH: 
- Hypertension
- Hyperlipidemia
- CAD
- COPD/asthma
- Atrial fibrillation
- Depressive disorder
- Headache disorder
- Low back pain
- Carotid artery stenosis, left
- Restless leg syndrome
- Insomnia

 
Social History:
___
Family History:
Premature coronary artery disease- Father had a "hole in his 
heart" died at age ___ from lung disease and alcoholism. Mother 
died at age ___ from TB

 
Physical Exam:
Admission Physical Exam:

VS: Temp: 98.1 HR: 105 BP: 118/60 Resp: 20 O2 Sat: 96 Normal
Constitutional: NAD
Head / Eyes: Normocephalic, atraumatic, Pupils equal, round and 
reactive to light
ENT/Neck: Trachea midline
Chest/Resp: Bilateral breath sounds, Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and second 
heart sounds
GI/Abdominal: Soft, Nontender
Musc/Extr/Back: L hip contusion with overlying hematoma and 
tenderness. limited ROM. L elbow
with overlying ecchymosis and tenderness
Skin: No rash, Warm and dry
Neuro: GCSS=15
Psych: Normal mood, Normal mentation

Discharge Physical Exam:
VS: 97.4. 115/62, 77, 16, 100% RA 
GEN: A&Ox3, NAD
CV: RRR
PULM: CTA bl
ABD: Soft, NT, ND, BS normoactive x4
EXT: PPP
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
1. Redemonstration of several ruptured right renal cysts with 
adjacent 
perinephric stranding and fluid.  No evidence of renal 
laceration or contrast extravasation.  No evidence of pelvic 
free fluid. 
2. Redemonstration of a small subcutaneous hematoma in the 
posterior right 
pelvis. 
3. Minimally displaced avulsion fracture of the greater 
trochanter of the 
right femur. 
4. Compared to ___, unchanged size and appearance of a 
high-density 2 cm renal cyst at the inferior pole the right 
kidney, likely a proteinaceous or hemorrhagic cyst, although if 
further investigation is warranted, can consider renal 
ultrasound. 
5. Airway wall thickening and mucous plugging of the right lobe 
bronchi. 

___: B/L wrist x-rays:
No acute fracture or dislocation involving either elbow, 
forearm, or wrist.

___: Left Knee x-ray:
  
Moderate lipohemarthrosis is concerning for an intra-articular 
fracture, 
though no discrete fracture line is visualized.  CT of the knee 
is suggested for further assessment.  No dislocation. 

___: B/L Forearm x-ray:
No acute fracture or dislocation involving either elbow, 
forearm, or wrist.

___: CXR:
No evidence of acute cardiopulmonary process.  Specifically, no 
pneumothorax or displaced rib fracture.  Stable changes of COPD. 


___: CT LLE:
1. Minimally impacted fracture of the left anterior tibial 
plateau.  Small 
lipohemarthrosis. 

LABS:

___ 07:09PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:09PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 07:09PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:09PM URINE  HYALINE-1*
___ 05:18PM   GLUCOSE-106* UREA N-10 CREAT-0.9 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-110* TOTAL CO2-23 ANION GAP-9*
___ 05:18PM   WBC-17.5* RBC-3.64* HGB-9.7* HCT-33.0* MCV-91 
MCH-26.6 MCHC-29.4* RDW-14.9 RDWSD-49.4*
___ 05:18PM   NEUTS-81.1* LYMPHS-5.0* MONOS-11.0 EOS-1.3 
BASOS-0.2 IM ___ AbsNeut-14.17* AbsLymp-0.87* 
AbsMono-1.93* AbsEos-0.23 AbsBaso-0.04
___ 05:18PM   PLT COUNT-236
___ 05:18PM   ___ TO  PTT-UNABLE TO  ___ 
TO 
 
Brief Hospital Course:
___ male with h/o HTN, HLD, asthma/COPD, atrial 
fibrillation (not on anticoagulation)and CAD presented to the ED 
s/p MVA. He was initially taken to ___ where he started 
complaining of pain in the right hip and left knee pain. He had 
CT and XR imaging that identified a ruptured left renal cyst as 
well as a greater trochanter fracture of the right hip, and was 
transferred to ___ for further evaluation.  The patient was 
admitted the Trauma/Acute Care Surgery service for care. The 
Orthopedic Surgery service was consulted for the right greater 
trochanter fracture and non-operative management was recommended 
and the patient could bear weight as tolerated on the RLE.  A 
left knee x-ray was obtained, due to left knee pain, which was 
equivocal for left tibeal plateau fracture, and a CT LLE 
confirmed he had a left tibeal plateau fracture.  

While in the hospital, the patient had urinary retention and was 
straight catheterized x 1.  He voided adequately afterwards on 
his own. 

There was nothing to do for the right renal cyst rupture except 
pain management.  The patient received tramadol, ibuprofen, 
acetaminophen and lidocaine patches for pain control.  The 
patient worked with physical and occupational therapy and he was 
cleared to be discharged home to continue his recovery.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Finasteride 5 mg PO DAILY 
2. CARVedilol 3.125 mg PO BID 
3. Tamsulosin 0.4 mg PO QHS 
4. Omeprazole 20 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Atorvastatin 40 mg PO QPM 
7. BuPROPion (Sustained Release) 150 mg PO QAM 
8. Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY 
9. Sacubitril-Valsartan (97mg-103mg) 1 TAB PO BID 
10. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation ASDIR 
11. Phenazopyridine 100 mg PO TID:PRN urinary symptoms  
12. Furosemide 10 mg PO DAILY 
13. FoLIC Acid 1 mg PO DAILY 
14. Aspirin 81 mg PO DAILY 
15. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
16. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
Take with food  
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
Apply for 12 hours, then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply patch to area of hip pain or area of 
back pain QAM Disp #*15 Patch Refills:*0 
4.  TraMADol 50 mg PO Q4H:PRN Pain - Severe 
Wean as tolerated. Patient may request partial fill.  
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  BuPROPion (Sustained Release) 150 mg PO QAM  
9.  CARVedilol 3.125 mg PO BID  
10.  Docusate Sodium 100 mg PO BID  
11.  Finasteride 5 mg PO DAILY  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Furosemide 10 mg PO DAILY  
14.  Gabapentin 300 mg PO QHS  
15.  Omeprazole 20 mg PO BID  
16.  Phenazopyridine 100 mg PO TID:PRN urinary symptoms   
17.  Sacubitril-Valsartan (97mg-103mg) 1 TAB PO BID  
18.  Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY  
19.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation ASDIR  
20.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Right greater trochanter fracture
-Left tibial plateau fracture
-Right renal cyst rupture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a motor vehicle crash.  
You were found to have a right greater trochanter (top of femur 
bone) fracture, a left tibial plateau (knee) fracture, and a 
right kidney cyst rupture.  The Orthopedic Surgery service 
evaluated your left lower extremity fractures and no surgery was 
needed.  It was recommended that you work with physical therapy 
and you may bear weight as tolerated on your left leg.  There 
was nothing to do for the right kidney cyst rupture and pain 
medication was provided.

You are now ready to be discharged from the hospital.  Please 
follow the discharge instructions below to ensure a safe 
recovery:

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___